US08492378B2
2-[3-(4-methoxyphenyl)-1-benzofuran-5-yl]-5-[[4-methoxy-3-(trifluoromethyl)benzyl]thio]-1,3,4-oxadiazole
In the same manner as in Example 1 and using 5-[3-(4-methoxyphenyl)-1-benzofuran-5-yl]-1,3,4-oxadiazole-2-thiol instead of 5-(benzothiazol-6-yl)-1,3,4-oxadiazole-2-thiol and 4-methoxy-3-(trifluoromethyl)benzyl bromide instead of 3-(trifluoromethyl)benzyl chloride, the title compound (yield 91%) was obtained as colorless crystals.

reactant | 5-[3-(4-methoxyphenyl)-1-benzofuran-5-yl]-1,3,4-oxadiazole-2-thiol | COC1=CC=C(C=C1)C1=COC2=C1C=C(C=C2)C2=NN=C(O2)S | C17H12N2O3S
reactant | 4-methoxy-3-(trifluoromethyl)benzyl bromide | COC1=C(C=C(CBr)C=C1)C(F)(F)F | C9H8BrF3O
product | 2-[3-(4-methoxyphenyl)-1-benzofuran-5-yl]-5-[[4-methoxy-3-(trifluoromethyl)benzyl]thio]-1,3,4-oxadiazole | yield 91% | COC1=CC=C(C=C1)C1=COC2=C1C=C(C=C2)C=2OC(=NN2)SCC2=CC(=C(C=C2)OC)C(F)(F)F | C26H19F3N2O4S
